* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7154-1.8.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 2.9
C1 OUT 0 10µ Rser=10m Lser=1n
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 18
X§U1 N004 OUT N002 0 N003 N003 N001 IN ADM7154_5 Vreg=2.6022 Vref=1.8154
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
